US05451700
4-[5-(4-cyanophenoxy)pentoxy]-3-methoxybenzoic acid (3600 g, 10.13 mol) is suspended in dichloromethane (36 L) and to this is added thionyl chloride (1345 g, 11.30 mol) dropwise over 20 minutes followed by dimethylformamide (74.4 g, 10.0 mmol). The reaction mixture is stirred at room temperature for 21 hours; after 6 hours a complete solution is obtained. The solution is concentrated in vacuo (50° C, 3 mm Hg) to give 4-[5-(4-cyanophenoxy)pentoxy]-3-methoxybenzoyl chloride as a solid, which is then redissolved in dichloromethane (36 L) without further purification and cooled to 5° C. with an ice bath. Diisopropylamine (3077 g, 30.40 mmol) is added dropwise over a period of 1 hour. The reaction mixture is stirred at 20° C. for 3 hours and then, N,N-dimethylethylenediamine (80.3 g, 0.91 mmol) is added. The reaction is followed by TLC (2:1 ethyl acetate/hexanes, silica plates) until no more byproduct (bis-anhydride of 4-[5-(4-cyanophenoxy)pentoxy]3-methoxybenzoic acid) is detected. The reaction mixture is then stirred overnight at room temperature. Water (18 L) is added,stirred and the layers separated. The organic layer is washed with hydrochloric acid (1.0 N, 23 L), water (18 L), ammonium hydroxide (0.5 N, 2×23 L), water (18 L) and brine solution (18 L). The separated dichloromethane solution is dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo (50° C., 3 mm Hg) to give 4-[5-(4-cyanophenoxy)pentoxy]-3-methoxy-N,N-bis(1-methylethyl)- benzamide as a solid. The solid is dissolved in 2 B ethanol (21.5 L) by warming and to the solution is added water (8.6 L). The product is allowed to crystallize overnight in an ice bath. The product is filtered, washed with EtOH/H2O (5:2, 2×2 L) and dried in vacuo (54° C., 3 mm Hg) to give 4-[5-(4-cyanophenoxy)pentoxy]-3-methoxy-N,N-bis(1-methylethyl)- benzamide, mp 90°-92° C. HPLC indicates a purity of >99.7%.

reactant | 4-[5-(4-cyanophenoxy)pentoxy]-3-methoxybenzoic acid | 10.13 mol, 3600 g | C(#N)C1=CC=C(OCCCCCOC2=C(C=C(C(=O)O)C=C2)OC)C=C1 | C20H21NO5
reactant | thionyl chloride | 11.30 mol, 1345 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 10.0 mmol, 74.4 g | CN(C=O)C | C3H7NO
solvent | dichloromethane | 36 L | ClCCl | CH2Cl2
product | 4-[5-(4-cyanophenoxy)pentoxy]-3-methoxybenzoyl chloride | C(#N)C1=CC=C(OCCCCCOC2=C(C=C(C(=O)Cl)C=C2)OC)C=C1 | C20H20ClNO4
